US06127541
3-(4-Methyl-1-piperazinyl)benzonitrile
According to a similar manner to that in Reference Example 17, the title compound was synthesized from 3-fluorobenzonitrile and 1-methylpiperazine.

reactant | 3-fluorobenzonitrile | FC=1C=C(C#N)C=CC1 | C7H4FN
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 3-(4-Methyl-1-piperazinyl)benzonitrile | CN1CCN(CC1)C=1C=C(C#N)C=CC1 | C12H15N3
